US07816558B2
A 4M HCl/1,4-dioxane solution was added to a DMF solution of 4-(benzyloxy)isophthalonitrile and thioacetamide, followed by stirring at 60° C. to obtain 4-(benzyloxy)-3-cyanobenzenecarbothioamide. AP: 291 (Na).

reactant | HCl 1,4-dioxane | 4M | Cl.O1CCOCC1
reactant | 4-(benzyloxy)isophthalonitrile | C(C1=CC=CC=C1)OC1=C(C=C(C#N)C=C1)C#N | C15H10N2O
reactant | thioacetamide | C(C)(=S)N | C2H5NS
solvent | DMF | CN(C)C=O | C3H7NO
product | 4-(benzyloxy)-3-cyanobenzenecarbothioamide | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C(N)=S)C#N | C15H12N2OS
